US07737166B2
N-(4-Bromo-2-cyano-5-fluoro-6-hydroxy-3-methylphenyl)-2,2-dimethyl-3-[(phenylmethyl)oxy]propionamide (I-106)
After cooling, the reaction liquid was concentrated under reduced pressure, and azeotroped with benzene. A tetrahydrofuran solution (7 ml) of the resulting residue was dropwise added to a tetrahydrofuran solution (63 ml) of 2-amino-5-bromo-4-fluoro-3-hydroxy-6-methylbenzonitrile (I-75) (3.13 g, 12.77 mmol) and sodium hydrogencarbonate (2.68 g, 31.93 mmol), followed by stirring at room temperature for 19 hours. Ethyl acetate was added to the reaction liquid, followed by washing with water and saturated brine. The organic layer was concentrated under reduced pressure, the resulting residue was dissolved in ethanol (30 ml), aqueous 1 N sodium hydroxide solution (24 ml) was added, followed by stirring at 50° C. for 23 hours. After cooling, the reaction liquid was concentrated under reduced pressure, diluted with ethyl acetate, neutralized with aqueous 1 N hydrochloric acid, washed with saturated brine. The organic layer was concentrated under reduced pressure to obtain the entitled compound (5.82 g, 70%) as a yellow white solid.

reactant | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 63 ml | O1CCCC1 | C4H8O
reactant | 2-amino-5-bromo-4-fluoro-3-hydroxy-6-methylbenzonitrile | 12.77 mmol, 3.13 g | NC1=C(C#N)C(=C(C(=C1O)F)Br)C | C8H6BrFN2O
reactant | sodium hydrogencarbonate | 31.93 mmol, 2.68 g | C(O)([O-])=O.[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Bromo-2-cyano-5-fluoro-6-hydroxy-3-methylphenyl)-2,2-dimethyl-3-[(phenylmethyl)oxy]propionamide | 5.82 g, 70% | BrC1=C(C(=C(C(=C1F)O)NC(C(COCC1=CC=CC=C1)(C)C)=O)C#N)C | C20H20BrFN2O3
